.subckt top a y vdd vss
X1 a y vdd vss inv
.ends top

.subckt inv in out vdd vss
M1 out in vdd vdd pmos W=1u L=0.15u
M2 out in vss vss nmos W=1u L=0.15u
.ends inv
