.subckt top a y vdd vss
X1 a y vdd vss inv w=1u
.ends top

.subckt inv in out vdd vss w=1u l=0.15u
M1 out in vdd vdd pmos W={w} L={l}
M2 out in vss vss nmos W=1u L={l}
.ends inv
