.lib tt
.subckt inv in out vdd vss w=1u l=0.15u
M1 out in vdd vdd pmos W={w} L={l}
M2 out in vss vss nmos W={w} L={l}
.ends inv
.endl tt
.lib ss
.subckt inv in out vdd vss w=2u l=0.20u
M1 out in vdd vdd pmos_slow W={w} L={l}
M2 out in vss vss nmos_slow W={w} L={l}
.ends inv
.endl ss
